US04483786
1-Methoxy-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene (50 g, 0.2155 mol) was added to a stirred mixture of hexamethylenetetramine (31.4 g, 0.224 mol) and trifluoroacetic acid (250 mL) at 35°-40° C., under a nitrogen atmosphere. The stirred reaction mixture was heated to 85°-90° C. and maintained at this temperature for 1.5 h. Trifluoroacetic acid was removed by distillation and the residue was poured onto an ice-water mixture (800 mL). The mixture was then stirred for 0.5 h, neutralized with a 10% sodium carbonate solution and the product extracted with benzene (2×150 mL). The combined extracts were washed with brine (50 mL) and dried (Na2SO4). The solvent was then removed by distillation and the residue crystallized from hexane to provide 1-methoxy-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde (14 g), mp 78° C., GLC purity 100%, exhibiting the expected spectral data.

reactant | 1-Methoxy-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene | 0.2155 mol, 50 g | COC1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C | C16H24O
reactant | hexamethylenetetramine | 0.224 mol, 31.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 250 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-methoxy-3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde | 14 g | COC1=C(C(=CC=2C(CCC(C12)(C)C)(C)C)C)C=O | C17H24O2
